US07851473B2
4-(4-Phenyl-1,3-thiazol-2-yl)-N-pyridazin-4-ylpiperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl pyridazin-4-ylcarbamate (100 mg, 0.370 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (90.7 mg, 0.370 mmol), diisopropylethylamine (0.0645 ml, 0.370 mmol) and dimethylsulfoxide (2 ml) was stirred at 70° C. for 12 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was recrystallized from ethyl acetate to obtain the desired product (80.4 mg, 59.1%) as a solid.

reactant | 2,2,2-trichloroethyl pyridazin-4-ylcarbamate | 0.370 mmol, 100 mg | N1=NC=C(C=C1)NC(OCC(Cl)(Cl)Cl)=O | C7H6Cl3N3O2
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 0.370 mmol, 90.7 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 0.370 mmol, 0.0645 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(4-Phenyl-1,3-thiazol-2-yl)-N-pyridazin-4-ylpiperazine-1-carboxamide | 80.4 mg, 59.1% | C1(=CC=CC=C1)C=1N=C(SC1)N1CCN(CC1)C(=O)NC1=CN=NC=C1 | C18H18N6OS
